US06147098
To a solution of 3-trifluoromethylaniline (11 mmol, 1.37 ml) in dichloromethane (25 ml), diphenylcyanocarbonimidate (10 mmol, 2.38 g), and triethylamine (11 mmol, 1.53 ml) were added. The mixture was stirred under nitrogen for 23 h. After concentration the residue was stirred with water, the water was decanted followed by concentration. The residue was stirred with toluene and the solid was collected by filtration giving 1.42 g of N-(3-trifluoromethylphenyl)-N'-cyano-O-phenylisourea (50%);

reactant | 3-trifluoromethylaniline | 11 mmol, 1.37 ml | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | diphenylcyanocarbonimidate | 10 mmol, 2.38 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | triethylamine | 11 mmol, 1.53 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-(3-trifluoromethylphenyl)-N'-cyano-O-phenylisourea | 1.42 g, 50% | FC(C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=NC#N)(F)F | C15H10F3N3O
